US06649600B1
2-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-thiazole-4-carboxylic acid ethyl ester
A suspension of 4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbothioic acid amide (20 mg, 50 μmol) and KLCO3 (8.0 eq, 400 μmol) in THF (5 ml) was stirred vigorously for 5 min and ethyl bromopyruvate (29 mg, 150 μmol) was added neat via syringe. The resulting, pale yellow solution was stirred at rt for 1 h, cooled to 0° C. with the aid of an ice bath and treated sequentially with pyridine (8.0 eq, 400 μmol) and (F3CCO)2O (4.0 eq, 42 mg, 200 μmol). The resulting deep red solution was allowed to reach ambient temperature overnight. Following the addition of water (4 ml), the mixture was concentrated in vacuo and extracted with CH2Cl2 (2×10 ml). The combined organic phases were washed with 2 N HCl, dried (Na2SO4), filtered and concentrated in vacuo. The solution was purified by radial chromatography (1 mm plate) using 2-5% MeOH in CH2Cl2 as eluent to afford a white solid (22 mg, 88%). MS: 500 (MH+).

reactant | 4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbothioic acid amide | 50 μmol, 20 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)C(N)=S)=O)CCC | C20H29N5O2S
reactant | ethyl bromopyruvate | 150 μmol, 29 mg | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | pyridine | 400 μmol, 8.0 eq | N1=CC=CC=C1 | C5H5N
reactant | water | 4 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-thiazole-4-carboxylic acid ethyl ester | 22 mg, 88% | C(C)OC(=O)C=1N=C(SC1)C12CCC(CC1)(CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C25H33N5O4S
